US04176184
7,7-Dimethyl-2-phenyl-5-(3-dimethylamino-propyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione dihydrochloride
Prepared analogous to Example 23 from 3.4 gm of 7,7-dimethyl-2-phenyl-5H,7H-imidazo(4,5-h]isoquinoline-4,6-dione hydrochloride and 1.7gm of 3-dimethylamino-propyl chloride hydrochloride (reaction temperature: 50°-60° C.; reaction time: 18 hous).

reactant | 7,7-dimethyl-2-phenyl-5H,7H-imidazo(4,5-h]isoquinoline-4,6-dione hydrochloride | 3.4 gm | Cl.CC1(N=CC2=C3C(C(CC2C1=O)=O)=NC(=N3)C3=CC=CC=C3)C
reactant | 3-dimethylamino-propyl chloride hydrochloride | 1.7gm | Cl.CN(CCCCl)C
product | 7,7-Dimethyl-2-phenyl-5-(3-dimethylamino-propyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione dihydrochloride | Cl.Cl.CC1(N=CC2=C3C(C(C(C2C1=O)CCCN(C)C)=O)=NC(=N3)C3=CC=CC=C3)C | InChI=1S/C23H26N4O2.2ClH/c1-23(2)21(29)17-15(11-8-12-27(3)4)20(28)19-18(16(17)13-24-23)25-22(26-19)14-9-6-5-7-10-14;;/h5-7,9-10,13,15,17H,8,11-12H2,1-4H3;2*1H
